Name:  ___.            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
crab / Penicillins / ether
 
Attending: ___
 
Chief Complaint:
Right arm and face tingling, aphasia, frontal headache
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Pt felt like his usual self morning of presentation. Around 
noon,
he mowed the lawn. When he finished around 13:00, he noted R 
hand
tingling and numbness that gradually spread proximally up his 
arm
to his R lower face. He then noted difficulty producing speech.
He could understand others just could not get his words out. His
wife called EMS. In the field, vitals were 200/120 88 17 96% 
room
air. Blood sugar 111. Pt was then brought to an OSH ED.

At presentation to OSH, BP 180/118 and pt otherwise HD stable.
NIHSS 3 (1-lanuage, 2-dysarthria). Symptoms began to gradually
improve about 20 minutes after onset. Per OSH report, "speech
almost back to normal although he is having problmes finding 
some
words". ___ showed a "8 mm aneurysm in communicating artery".
Pt was then transferred to ___ for further management

Of note, after the improvement of his speech difficulty and 
right
arm and face numbness, pt noted a severe, sharp L parietal
headache. He denied having a similar headache prior and stated
this was the worst headache of his life. He had photosensitivity
but no nausea or vomiting. Pain was constant. He denied 
diplopia,
neck stiffness, or any positional component. He does not
typically have headaches, even in his childhood.

At the time of my assessment, pt reported the numbness/tingling
was completely resolved. He felt his speech was significantly
improved but not quite back to his baseline. He denied any
dysarthria. These symptoms had never happened before. He had no
other complaints.

On neurologic review of systems, the patient denies
lightheadedness or confusion. Denies difficulty comprehending
speech. Denies loss of vision, blurred vision, diplopia, 
vertigo,
tinnitus, hearing difficulty, dysarthria, or dysphagia. Denies
focal muscle weakness, numbness, parasthesia. Denies bowel or
bladder incontinence or retention. Denies difficulty with gait.

On general review of systems, the patient denies fevers, chest
pain, palpitations, cough, nausea, vomiting, diarrhea,
constipation, abdominal pain, dysuria or rash.

 
Past Medical History:
AAA (5.5cm infrarenal) s/p repair (___)
Appendectomy (___)
Bladder tumor s/p TURP (___)
Total hip replacement (___)
R radical orchiectomy (___)
Inguinal hernia repair (___)
Lumbar discectomy (___)
Bowel resection for recurrent diverticulitis (___)
Laproscopic Nissen fundoplication
 
Social History:
___
Family History:
No family history of aneurysm, stroke, seizure or any
neurological conditions. Denies history of any medical 
conditions
in family.
 
Physical Exam:
========================
ADMISSION/DISCHARGE EXAM
========================

GENERAL EXAMINATION:
General: NAD, resting in bed
HEENT: NCAT
___: RRR
Pulmonary: CTAB
Abdomen: Soft, NT, ND
Extremities: Warm, no edema

NEUROLOGIC EXAMINATION: 
- Mental Status - Alert and oriented to person, place, time, and 
situation. Intact attention, naming, repetition, and 
comprehension (complex commands). No apparent dysarthria. Normal 
prosody. No neglect. No left-right agnosia.

- Cranial Nerves - PERRL 3->2 brisk. EOMI, no nystagmus. V1-V3 
without deficits to light touch bilaterally. No facial movement 
asymmetry. Normal strength muscles of mastication. Hearing 
grossly intact. No dysarthria (clear complex phrases, pa-ta-ka). 
Palate elevation symmetric. Trapezius strength ___ bilaterally. 
Tongue midline.

- Motor - Normal bulk and tone. No drift. No tremor or 
asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5
R  5    ___   ___  5   5    5  5     5     5

- Sensory - No deficits to light touch or pin bilaterally.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    1   0
R  2  2    2    1   0
Plantar response mute bilaterally.

- Coordination - No dysmetria with FNF. 

 
Pertinent Results:
====
LABS
====
___ 05:25AM BLOOD WBC-6.5 RBC-4.84 Hgb-15.2 Hct-46.8 MCV-97 
MCH-31.4 MCHC-32.5 RDW-13.5 RDWSD-48.1* Plt ___
___ 05:25AM BLOOD Plt ___
___ 05:25AM BLOOD Glucose-111* UreaN-17 Creat-1.0 Na-141 
K-4.0 Cl-98 HCO3-28 AnGap-19
___ 05:25AM BLOOD Calcium-9.9 Phos-3.2 Mg-2.1 Cholest-261*
___ 05:25AM BLOOD %HbA1c-5.5 eAG-111
___ 05:25AM BLOOD Triglyc-136 HDL-54 CHOL/HD-4.8 
LDLcalc-180*
___ 05:25AM BLOOD TSH-14*
___ 04:06PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 04:45PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 04:45PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

=======
IMAGING
=======
CTA H&N - ___
No acute intracranial hemorrhage or CT evidence of infarct. 
7 mm A-comm aneurysm. 2 small distal midline ACA saccular 
structures seen on 3D reconstruction images are likely artifact 
due to vascular or dural calcifications. Recommend correlation 
with angiography if this is planned. Right-greater-than-left 
internal carotid artery calcification near the 
bifurcation. No significant ICA stenosis by NASCET criteria. 

TTE ___
The left atrial volume index is normal. No atrial septal defect 
is seen by 2D or color Doppler. There is mild symmetric left 
ventricular hypertrophy with normal cavity size and 
regional/global systolic function (LVEF>55%). Right ventricular 
chamber size and free wall motion are normal. The aortic valve 
leaflets (3) are mildly thickened but aortic stenosis is not 
present. No aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. Trivial mitral regurgitation is 
seen. There is no pericardial effusion. 
IMPRESSION: Symmetric LVH with normal global and regional 
biventricular systolic function. No ASD or LV thrombus seen.  

 
Brief Hospital Course:
Presented after acute onset RUE and R face numbness and 
tingling, symptoms of a global aphasia, and ___ frontal 
headache while mowing the lawn. His symptoms largely resolved 
upon presentation to the ED with only trace aphasia more of a 
posterior form (some paraphasic errors) remaining after a day. 
CTA showed a 7mm A-comm aneurysm, which was deemed to be 
possibly incidental as it did not refer directly to his 
symptoms. However, may be resulting in seizure or migraine that 
indirectly induce his symptoms. 

He will follow-up with Neurosurgery, Dr. ___, at the end of 
___. Most likely, we will obtain follow-up imaging in several 
months to see if there is any increase in the size of the 
aneurysm.

His presumptive diagnosis is a TIA. TTE found symmetric LVH with 
normal global and regional biventricular systolic function; no 
ASD or LV thrombus seen.  He will undergo repeat CTA in 3 months 
to monitor the aneurysm. For the TIA, he was switched to Plavix 
since he had been on Aspirin when he came in and had these 
symptoms. In addition, he was started on atorvastatin 80mg due 
to LDL 180. He should have his lipid panel repeated by PCP ___ 
___ weeks.  

He will be setup with a 30-day event monitor as an outpatient to 
monitor for paroxysmal atrial fibrillation. He will follow-up 
with Dr. ___ stroke neurology in 3 months. 

His TSH was also markedly elevated at 14, although he shows no 
signs of clinical hypothyroidism, which will be followed-up by 
PCP. 

=
================================================================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed – () No  
2. DVT Prophylaxis administered? (x) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No  
4. LDL documented? (x) Yes (LDL = 180) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - () No [if 
LDL >100, reason not given: ]  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
() Yes - (x) No  
9. Discharged on statin therapy? (x) Yes - () No [if LDL >100, 
reason not given: ]  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 
3. ALPRAZolam 0.5 mg PO BID:PRN Anxiety 

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth QPM Disp #*30 Tablet 
Refills:*2 
2.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth DAILY Disp #*30 
Tablet Refills:*2 
3.  ALPRAZolam 0.5 mg PO BID:PRN Anxiety  
4.  Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient Ischemic Attack
Anterior communicating artery aneurysm

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
 
You were hospitalized due to symptoms of speech difficulty 
(aphasia) and right arm tingling/numbness likely resulting from 
a TRANSIENT ISCHEMIC ATTACK, a condition where a blood vessel 
providing oxygen and nutrients to the brain is temporarily 
blocked by a clot. It is similar to a stroke, however in TIA the 
blockage rapidly resolves. The brain is the part of your body 
that controls and directs all the other parts of your body, so 
damage to the brain from being deprived of its blood supply can 
result in a variety of symptoms.  
 
Stroke/TIA can have many different causes, so we assessed you 
for medical conditions that might raise your risk of having 
stroke. In order to prevent future strokes, we plan to modify 
those risk factors. Your risk factors are:  
- High cholesterol
- Vascular disease
- Hypertension
- History of smoking
 
We are changing your medications as follows:  
- STOP taking aspirin. 
- START taking clopidogrel (Plavix) DAILY. 
- RESUME your home triamterene-hydrochlorothiazide. 
- START taking atorvastatin 80mg DAILY. 
- Resume
 
Please take your other medications as prescribed.  
 
Please followup with Neurology, Neurosurgery, and your primary 
care physician. 
 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- Sudden partial or complete loss of vision  
- Sudden loss of the ability to speak words from your mouth  
- Sudden loss of the ability to understand others speaking to 
you  
- Sudden weakness of one side of the body  
- Sudden drooping of one side of the face  
- Sudden loss of sensation of one side of the body  
 
Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___